US08017626B2
Method 19: Ethyl 2-(4-hydroxy-1-methyl-2-oxo-6-phenyl-1,2-dihydroquinoline-3-carboxamido)acetate
A solution of ethyl 2-(4-hydroxy-6-iodo-1-methyl-2-oxo-1,2-dihydroquinoline-3-carboxamido)acetate (200 mg, 465 μmol), phenylboronic acid (85 mg, 697 μmol), 2M Sodium carbonate (0.7 ml, 1395 μmol), Tetrakis(triphenylphosphine) palladium(0) (5 mg, 5 μmol) and N,N-Dimethylformamide (10 ml) was stirred at 100° C. After 8 hrs, an additional equivalent of the phenyl boronic acid was added, and the mixture was stirred for 15 hrs. The reaction mixture was concentrated on a roto-evaporator and extracted with EtOAc. This product was then washed with water and brine, then dried with MgSO4 and concentrated on a roto-evaporator to give the crude product as a red-orange oil. The crude product was purified by silica flash chromatography (10-75% EtOAc:Hex step gradient) to give the desired product as a white solid. Yield=120 mg. In some cases, ester hydrolysis was observed and the carboxylic acid was isolated.

reactant | ethyl 2-(4-hydroxy-6-iodo-1-methyl-2-oxo-1,2-dihydroquinoline-3-carboxamido)acetate | 465 μmol, 200 mg | OC1=C(C(N(C2=CC=C(C=C12)I)C)=O)C(=O)NCC(=O)OCC | C15H15IN2O5
reactant | phenylboronic acid | 697 μmol, 85 mg | C1(=CC=CC=C1)B(O)O | C6H7BO2
reactant | Sodium carbonate | 1395 μmol, 2M, 0.7 ml | C([O-])([O-])=O.[Na+].[Na+]
catalyst | Tetrakis(triphenylphosphine) palladium(0) | 5 μmol, 5 mg | [Pd].C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1
solvent | N,N-Dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
product | Ethyl 2-(4-hydroxy-1-methyl-2-oxo-6-phenyl-1,2-dihydroquinoline-3-carboxamido)acetate | OC1=C(C(N(C2=CC=C(C=C12)C1=CC=CC=C1)C)=O)C(=O)NCC(=O)OCC | C21H20N2O5
